US07262185B2
To 1-[2-[(4-nitrophenyl)sulfanyl]ethyl]-1,2,4-triazole (1.3 g) was added 85% ethanol solution (38 ml), calcium chloride (0.28 g) and reduced iron (1.4 g) were added to the mixture, and the mixture was heated to reflux for 3 hours. After cooling to room temperature, the mixture was filtered with Celite, and washed with ethyl acetate. The solvent was removed under reduced pressure, and the obtained residue was added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-[[2-(1,2,4-triazol-1-yl)ethyl]sulfanyl]phenylamine (0.95 g).

reactant | 1-[2-[(4-nitrophenyl)sulfanyl]ethyl]-1,2,4-triazole | 1.3 g | [N+](=O)([O-])C1=CC=C(C=C1)SCCN1N=CN=C1 | C10H10N4O2S
reactant | calcium chloride | 0.28 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 38 ml | C(C)O | C2H6O
product | 4-[[2-(1,2,4-triazol-1-yl)ethyl]sulfanyl]phenylamine | 0.95 g | N1(N=CN=C1)CCSC1=CC=C(C=C1)N | C10H12N4S
